US08445515B2
4N HCl in 1,4-dioxane (5 mL, 20 mmol) was slowly added to a 0° C. solution of the above crude product (2R,3S)-2-(4-tert-Butoxycarbonylaminophenyl)-1-(2-methylbenzoyl)piperidine-3-carboxylic acid ethyl ester (840 mg, 1.72 mmol) in dry CH2Cl2 (4 mL). After the addition of the HCl, the reaction mixture was allowed to attain r.t and stirred for 1 h. It was diluted with CH2Cl2 (30 mL), cooled to 0° C. and neutralized with saturated aqueous NaHCO3 to get the (2R,3S)-2-(4-aminophenyl)-1-(2-methylbenzoyl)piperidine-3-carboxylic acid ethyl ester (612 mg) in 97% yield over two steps.

reactant | HCl | 4N | Cl | ClH
reactant | 1,4-dioxane | 20 mmol, 5 mL | O1CCOCC1 | C4H8O2
reactant | (2R,3S)-2-(4-tert-Butoxycarbonylaminophenyl)-1-(2-methylbenzoyl)piperidine-3-carboxylic acid ethyl ester | 1.72 mmol, 840 mg | C(C)OC(=O)[C@@H]1[C@@H](N(CCC1)C(C1=C(C=CC=C1)C)=O)C1=CC=C(C=C1)NC(=O)OC(C)(C)C | C27H34N2O5
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | (2R,3S)-2-(4-aminophenyl)-1-(2-methylbenzoyl)piperidine-3-carboxylic acid ethyl ester | 612 mg, 97% yield | C(C)OC(=O)[C@@H]1[C@@H](N(CCC1)C(C1=C(C=CC=C1)C)=O)C1=CC=C(C=C1)N | C22H26N2O3
